US08865736B2
3-(Hydroxymethyl)phenyl acetate
To a stirred solution of 3-hydroxybenzylalcohol (1.0 g, 8 mmol, 1 equiv.) in 6.4N KOH solution (1.86 ml, 12 mmol, 1.5 equiv.) at r.t., ice (4 g) was added followed by acetic anhydride (0.95 ml, 10 mmol, 1.25 equiv.). The reaction mixture was stirred at r.t. for 3 h. Water (50 ml) was added and the mixture was stirred for 30 min, before extracting with CH2Cl2 (2×50 ml). The combined organic extracts were washed with brine (50 ml), dried (Na2SO4) and evaporated to dryness, under reduced pressure. The clear oil residue was purified by column chromatography on silica, eluted with EtOAc/hexane (1:2), to give the desired product as a clear oil (714 mg, 54% yield). HPLC-MS (method 1): m/z 165 [M−H]−. Rt=2.52 min.

reactant | 3-hydroxybenzylalcohol | 8 mmol, 1.0 g, 1 equiv. | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | KOH | 12 mmol, 6.4N, 1.86 ml, 1.5 equiv. | [OH-].[K+]
reactant | acetic anhydride | 10 mmol, 0.95 ml, 1.25 equiv. | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | 50 ml | O | H2O
product | 3-(Hydroxymethyl)phenyl acetate | 714 mg, 54% yield | C(C)(=O)OC1=CC(=CC=C1)CO | C9H10O3
